US07612054B2
Dibenzo[b,f]oxepine-10-carboxylic acid [4-butylcarbamoyl-1-(3-fluorobenzyl)-2-hydroxy-pentyl]-amide
Dibenzo[b,f]oxepine-10-carboxylic acid [2-(3-fluoro-phenyl)-1-(4-methyl-5-oxo-tetrahydrofuran-2-yl)-ethyl]-amide (50 mg) is dissolved in 2 ml butylamine and stirred for 16 h. The solution was concentrated in vacuo and the residual solid was recrystallised from EtOAc/hexane. Yield 25 mg (48%).

reactant | Dibenzo[b,f]oxepine-10-carboxylic acid [2-(3-fluoro-phenyl)-1-(4-methyl-5-oxo-tetrahydrofuran-2-yl)-ethyl]-amide | 50 mg | FC=1C=C(C=CC1)CC(C1OC(C(C1)C)=O)NC(=O)C1=CC2=C(OC3=C1C=CC=C3)C=CC=C2 | C28H24FNO4
solvent | butylamine | 2 ml | C(CCC)N | C4H11N
product | Dibenzo[b,f]oxepine-10-carboxylic acid [4-butylcarbamoyl-1-(3-fluorobenzyl)-2-hydroxy-pentyl]-amide | C(CCC)NC(=O)C(CC(C(CC1=CC(=CC=C1)F)NC(=O)C1=CC2=C(OC3=C1C=CC=C3)C=CC=C2)O)C | C32H35FN2O4
